US07157092B1
6. 4-(diphenyloxyphosphoryloxy)-2-[(R)-3-dodecanoyloxytetradecanoylamino]-butanoic acid
The 4-(diphenyloxyphosphoryloxy)-2-[(R)-3-benzyloxytetradecanoylamino]-butanoic acid can be prepared using the same reaction scheme by replacing in step 5 of example I, (R)-3-dodecanoyloxytetradecanoic acid by (R)-3-benzyloxytetradecanoic acid.

reactant | 4-(diphenyloxyphosphoryloxy)-2-[(R)-3-benzyloxytetradecanoylamino]-butanoic acid | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)OCCC(C(=O)O)NC(C[C@@H](CCCCCCCCCCC)OCC1=CC=CC=C1)=O | C37H50NO8P
reactant | (R)-3-dodecanoyloxytetradecanoic acid | C(CCCCCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C26H50O4
reactant | (R)-3-benzyloxytetradecanoic acid | C(C1=CC=CC=C1)O[C@@H](CC(=O)O)CCCCCCCCCCC | C21H34O3
product | 4-(diphenyloxyphosphoryloxy)-2-[(R)-3-dodecanoyloxytetradecanoylamino]-butanoic acid | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)OCCC(C(=O)O)NC(C[C@@H](CCCCCCCCCCC)OC(CCCCCCCCCCC)=O)=O | C42H66NO9P
